US04141899
4-Cyclohexyl-5-(N-methyl-thiocarbamoyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine (386/1368)
Operating as in Example 14, 15.5 g of 4-cyclohexyl-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine, m.p. 150°, are obtained from 18.4 g of histamine dihydrochloride and 24.4 ml of hexahydrobenzaldehyde. A solution of 2.05 g of 4-cyclohexyl-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine and 1.1 g of methyl isothiocyanate in 30 ml of acetonitrile is refluxed for 5 h. The solution is cooled and filtered, and 2.50 g of the title compound, m.p. 232°, are collected.

reactant | 4-cyclohexyl-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine | 2.05 g | C1(CCCCC1)C1NCCC2=C1N=CN2 | C12H19N3
reactant | methyl isothiocyanate | 1.1 g | CN=C=S | C2H3NS
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 4-Cyclohexyl-5-(N-methyl-thiocarbamoyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine | C1(CCCCC1)C1N(CCC2=C1N=CN2)C(NC)=S | C14H22N4S
